US04233307
A mixture of 1.63 g of phenoxyethylchloride, 1.5 g of 1-methyl-2-oxo-indoline-3-spiro-4'-piperidine, 1.44 g of anhydrous potassium carbonate, 0.1 g of potassium iodide and 30 ml of dimethylformamide was stirred at 90°-100° C. for 5 hours. The resulting mixture was poured into water and was extracted with diethylether. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo. Thus obtained oil was treated with hydrochloric acid to give 1'-(2-phenoxyethyl)-1-methyl-2-oxo-indoline-3-spiro-4'-piperidine hydrochloride

reactant | phenoxyethylchloride | 1.63 g | O(C1=CC=CC=C1)CCCl | C8H9ClO
reactant | 1-methyl-2-oxo-indoline-3-spiro-4'-piperidine | 1.5 g | CN1C(C2(CCNCC2)C2=CC=CC=C12)=O | C13H16N2O
reactant | potassium carbonate | 1.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1'-(2-phenoxyethyl)-1-methyl-2-oxo-indoline-3-spiro-4'-piperidine hydrochloride | Cl.O(C1=CC=CC=C1)CCN1CCC2(CC1)C(N(C1=CC=CC=C12)C)=O | InChI=1S/C21H24N2O2.ClH/c1-22-19-10-6-5-9-18(19)21(20(22)24)11-13-23(14-12-21)15-16-25-17-7-3-2-4-8-17;/h2-10H,11-16H2,1H3;1H
